US05935973
Epichlorohydrin (38 g) was added to a stirred solution of 5'-fluoro-2'-hydroxyacetophenone (20.9 g) in ethanol (20 ml). A solution of potassium hydroxide (9.5 g) in a mixture of ethanol (30 ml) and water (5 ml) was then added and stirring continued for one hour. The solvent was removed in vacuo and the residue poured into water then extracted with ethyl acetate. The combined extracts were washed with brine and dried over magnesium sulphate. The solvent was removed in vacuo and the residue purified by chromatography on silica, eluting with a 9:1 mixture, then a 3:2 mixture, of petroleum ether (b.p. 40-60° C.) and ethyl acetate. Appropriate fractions were combined and the solvent removed in vacuo to give 2'-(2,3-epoxypropoxy)-5'-fluoroacetophenone (4.68 g) as an oil.

reactant | Epichlorohydrin | 38 g | C(Cl)C1CO1 | C3H5ClO
reactant | 5'-fluoro-2'-hydroxyacetophenone | 20.9 g | FC=1C=CC(=C(C1)C(C)=O)O | C8H7FO2
reactant | potassium hydroxide | 9.5 g | [OH-].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 2'-(2,3-epoxypropoxy)-5'-fluoroacetophenone | 4.68 g | O1C(COC2=C(C=C(C=C2)F)C(C)=O)C1 | C11H11FO3
